US07754744B2
Step 2: 6-(Piperidin-4-ylamino)-nicotinic acid dihydrochloride
A solution of 6-(1-tert-butoxycarbonyl-piperidin-4-ylamino)-nicotinic acid (0.46 g, 1.43 mmol) in ethanol (40 mL) and 4 M HCl in dioxane (40 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 222.3 [M+H]+.

reactant | 6-(1-tert-butoxycarbonyl-piperidin-4-ylamino)-nicotinic acid | 1.43 mmol, 0.46 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C(=O)O)C=C1 | C16H23N3O4
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 6-(Piperidin-4-ylamino)-nicotinic acid dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=NC=C(C(=O)O)C=C1 | InChI=1S/C11H15N3O2.2ClH/c15-11(16)8-1-2-10(13-7-8)14-9-3-5-12-6-4-9;;/h1-2,7,9,12H,3-6H2,(H,13,14)(H,15,16);2*1H
